### PR TITLE
feat(RingTheory/Flat): Add theorems relating Submodule.torsion and Module.Flat

### PR DESCRIPTION
**Pull request by matthewjasper**
Co-authored-by: Kevin Buzzard <k.buzzard@imperial.ac.uk>

---
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- If `R` is Bezout then an `R`-module is flat iff it has no torsion. -/
+@[stacks 0539 "Generalized valuation ring to IsBezout"]
+theorem flat_iff_torsion_eq_bot_of_isBezout [IsBezout R] [IsDomain R] :
+    Flat R M ↔ torsion R M = ⊥ := by
+  refine ⟨?_, ?_⟩
+    -- one way is true in general
+  · apply torsion_eq_bot
+    -- now assume R is a PID and M is a torsionfree R-module
+  · intro htors
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/TorsionFree.lean:81]:
```suggestion
  · exact torsion_eq_bot
  · -- now assume R is a PID and M is a torsionfree R-module
    intro htors
```

File: Mathlib/Algebra/Module/LocalizedModule/Basic.lean [hunk 2]
```diff
@@ -1358,3 +1358,32 @@ instance [Subsingleton M] (S : Submonoid R) : Subsingleton (LocalizedModule S M)
...
+    NoZeroSMulDivisors A N := by
+  rw [noZeroSMulDivisors_iff]
+  intro c x hcx
+  obtain ⟨a, s, rfl⟩ := IsLocalization.mk'_surjective S c
+  obtain ⟨⟨m, t⟩, rfl⟩ := IsLocalizedModule.mk'_surjective S f x
+  rw [Function.uncurry_apply_pair] at hcx ⊢
+  rw [mk'_smul_mk', mk'_eq_zero, IsLocalizedModule.eq_zero_iff S] at hcx
+  obtain ⟨u, hl⟩ := hcx
+  rw [← smul_assoc] at hl
+  obtain (hua|rfl) := NoZeroSMulDivisors.eq_zero_or_eq_zero_of_smul_eq_zero hl
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/LocalizedModule/Basic.lean]:
```suggestion
  obtain (hua | rfl) := NoZeroSMulDivisors.eq_zero_or_eq_zero_of_smul_eq_zero hl
```

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+import Mathlib.RingTheory.Flat.Localization
+import Mathlib.RingTheory.Ideal.IsPrincipal
+
+/-!
+# Relationships between flatness and torsionfreeness.
+We show that flat implies torsion-free, and that they're the same
+concept for rings satisfying a certain property, including Dedekind
+domains and valuation rings.
+
+## Main theorems
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean:19]:
```suggestion
## Main theorems

```

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+Authors: Matthew Jasper, Kevin Buzzard
+-/
+
+import Mathlib.Algebra.Module.Torsion
+import Mathlib.RingTheory.DedekindDomain.Dvr
+import Mathlib.RingTheory.Flat.Localization
+import Mathlib.RingTheory.Ideal.IsPrincipal
+
+/-!
+# Relationships between flatness and torsionfreeness.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean:13]:
```suggestion
# Relationships between flatness and torsionfreeness.

```

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- Flat modules have no torsion. -/
+theorem torsion_eq_bot [hflat : Flat R M] : torsion R M = ⊥ := by
+  rw [eq_bot_iff]
+  -- indeed the definition of torsion means "annihiliated by a nonzerodivisor"
+  rintro m ⟨⟨r, hr⟩, (h : r • m = 0)⟩
+  -- and we just showed that 0 is the only element with this property
+  exact isSMulRegular_of_nonZeroDivisors hr (by simp [h])
+
+theorem lift_lsmul_mul_eq_lsmul_lift_lsmul {y : R} :
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]: This is not a theorem about flat modules so probably shouldn't be in the `Module.Flat` namespace or in the `RingTheory/Flat` directory. It's probably also true for CommSemirings (in contrast to most other results in this file) so probably should be somewhere in `LinearAlgebra/TensorProduct` although I tried a couple of files and none of them had everything needed (maybe a new file? Files are cheap. Unless you're better than me at finding a home for it). I think the variable would be better called `r` because `y` is less guessable.

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 6]
```diff
@@ -0,0 +1,127 @@
...
+  ext x
+  simp
+
+/-- If `R` is Bezout then an `R`-module is flat iff it has no torsion. -/
+@[stacks 0539 "Generalized valuation ring to Bezout domains"]
+theorem flat_iff_torsion_eq_bot_of_isBezout [IsBezout R] [IsDomain R] :
+    Flat R M ↔ torsion R M = ⊥ := by
+  refine ⟨?_, ?_⟩
+    -- one way is true in general
+  · apply torsion_eq_bot
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]:
```suggestion
  -- one way is true in general
  refine ⟨fun _ ↦ torsion_eq_bot, ?_⟩
```
and now you don't need the dot and indentation of the interesting direction.

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 7]
```diff
@@ -0,0 +1,127 @@
...
+      refine Function.Injective.comp (LinearMap.lsmul_injective this) ?_
+      rw [← Equiv.injective_comp (TensorProduct.lid R M).symm.toEquiv]
+      convert Function.injective_id
+      ext x
+      simp
+
+-- TODO: Add definition and properties of Prüfer domains
+/-- If every localization of `R` at a maximal ideal is a valuation ring then an `R`-module
+is flat iff it has no torsion. -/
+theorem flat_iff_torsion_eq_bot_of_isValuationRing_localized_maximal [IsDomain R]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]: I agree that it should be called `IsValuationRing` but right now it's not (PR welcome, at least as far as I'm concerned) so probably this theorem should be `flat_iff_torsion_eq_bot_of_valuationRing_localization_isMaximal`

**Review by kbuzzard — COMMENTED** [review]
Nice, thanks! I left some nitpicky comments.

**Comment by kbuzzard** [comment]
@erdOne is your unresolved comment above of the form "we should do this but in another PR"? This looks good to go to me.

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+open LinearMap (lsmul rTensor lTensor)
+
+open Submodule (IsPrincipal torsion)
+
+open TensorProduct
+
+namespace Module.Flat
+
+variable {R : Type u} [CommRing R]
+    {M : Type v} [AddCommGroup M] [Module R M]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]:
```suggestion
variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
```

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 9]
```diff
@@ -0,0 +1,123 @@
...
+
+open scoped nonZeroDivisors
+
+open LinearMap in
+/-- Scalar multiplication `m ↦ r • m` by a nonzerodivisor `r` is injective on a flat module. -/
+lemma isSMulRegular_of_nonZeroDivisors {r : R} (hr : r ∈ R⁰) [Flat R M] : IsSMulRegular M r := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]: Can you add a version with `hr` replaced by `IsRegular r` which works for CommSemiring/AddCommMonoid?

**Comment by matthewjasper** [comment]
Continued in #26783
